US09062024B2
Synthesis of 5,5-dimethyl-1-(3-quinolinyl)-4,5-dihydro-3H-2-benzazepine (Compound no. B2-25)
3-Quinoline boronic acid triol salt (compound no. C2-12) (0.46 g, 1.56 mmol) synthesized by the method of Example 9, trifluoromethanesulfonic acid 5,5-dimethyl-1-(3-quinolinyl)-4,5-dihydro-3H-2-benzazepin-1-yl ester (0.5 g, 1.56 mmol) and tetrakistriphenyl phosphine palladium (0.86 g, 0.31 mmol) were added to 5 mL of toluene. After sparging with nitrogen gas, the resulting reaction solution was heated to reflux, and maintained for 14 hours. Then the reaction solution was cooled to room temperature and poured into ice water, followed by extracting with ethyl acetate. The organic layer was washed with brine, and the solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: hexane:ethyl acetate=3:1) to obtain the target compound (0.06 g, yield: 13%).

reactant | trifluoromethanesulfonic acid 5,5-dimethyl-1-(3-quinolinyl)-4,5-dihydro-3H-2-benzazepin-1-yl ester | 1.56 mmol, 0.5 g | CC1(CCNC(C2=C1C=CC=C2)(C=2C=NC1=CC=CC=C1C2)OS(=O)(=O)C(F)(F)F)C | C22H21F3N2O3S
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 5,5-dimethyl-1-(3-quinolinyl)-4,5-dihydro-3H-2-benzazepine | 0.06 g, yield: 13% | CC1(CCN=C(C2=C1C=CC=C2)C=2C=NC1=CC=CC=C1C2)C | C21H20N2
